US07332508B2
1-Isopropyl-4-[5-(4-cyclohexylphenyl)[1,2,4]oxadiazol-3-yl]piperidine
The title compound was prepared by a similar procedure to that described in Example 56, starting from 1-isopropyl-N-hydroxypiperidine-4-carboxamidine and 4-cyclohexylbenzoyl chloride.

reactant | 1-isopropyl-N-hydroxypiperidine-4-carboxamidine | C(C)(C)N1CCC(CC1)C(=N)NO | C9H19N3O
reactant | 4-cyclohexylbenzoyl chloride | C1(CCCCC1)C1=CC=C(C(=O)Cl)C=C1 | C13H15ClO
product | 1-Isopropyl-4-[5-(4-cyclohexylphenyl)[1,2,4]oxadiazol-3-yl]piperidine | C(C)(C)N1CCC(CC1)C1=NOC(=N1)C1=CC=C(C=C1)C1CCCCC1 | C22H31N3O
